US05942600
To a solution of butyn-1-ol (0.76 g, 0.11 mol) and methyl 4-iodophenylacetate (1.5 g, 0.0054 mol) in acetonitrile (10 mL) at 0° C., triethylamine (1.5 mL, 0.01 mol) was added, followed by the addition of bistriphenylphosphine palladium chloride (0.25 g, 0.36 mmol) and CuI (0.025 g). The reaction mixture was stirred at 0° C. under an argon atmosphere for 30 minutes and at room temperature for 3 hours. The dark colored reaction mixture was concentrated under reduced pressure, and the residue was partitioned between 5% citric acid (50 mL) and EtOAc (50 ML). The organic phase was washed with 5% citric acid (3×15 mL), water, dried (Na2SO4), filtered, and concentrated. The resulting material was purified by silica gel flash column chromatography eluting with 35% EtOAc in hexane to afford methyl 4-(4-hydroxy-1-butynyl)phenylacetate (1 g, 85%) as a dark colored liquid. FAB-MS m/z=219 (M+H), HRMS calcd. for C13H15O3 (M+H), 219.1021, found 219.1008. Calcd for C13H14O3 : C, 71.54, H 6.46; found: C, 71.04, H, 6.41.

reactant | butyn-1-ol | 0.11 mol, 0.76 g | C(#CCC)O | C4H6O
reactant | methyl 4-iodophenylacetate | 0.0054 mol, 1.5 g | IC1=CC=C(C=C1)CC(=O)OC | C9H9IO2
reactant | triethylamine | 0.01 mol, 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | CuI | 0.025 g | [Cu]I
product | methyl 4-(4-hydroxy-1-butynyl)phenylacetate | 1 g, 85% | OCCC#CC1=CC=C(C=C1)CC(=O)OC | C13H14O3
